US06500835B2
Following the Synthesis Method (A), 3.27 g (11.6 mmol) of 3-allyloxycarbonylmethylbenzenesulfonyl isocyanate was dissolved in 100 ml of anhydrous THF, then 1.98 g. (11.5 mmol) of 4-chloroanthranilic acid was added and the mixture was stirred at room temperature for 2 hours. The reaction solution was cooled with ice water, then 1.87 g (11.5 mmol) of CDI was added and the resultant mixture was stirred under ice cooling for 30 minutes. An excess amount of water was poured into the reaction solution, then the mixture was extracted with ethyl acetate. The organic layer was washed, dried, and concentrated to obtain a crude product. This was crystallized with a small amount of ethyl acetate to obtain 2.0 g (yield 40%) of 3-(3allyloxycarbonylmethylbenzenesulfonyl)-7-chloro-2,4(1H,3H)-quinazolinedione. The allyl product thus obtained was dissolved in 100 ml of a formic acid-THF (1:9) mixture and 700 mg of triphenylphosphine was added. The reactor was shaded from light and under nitrogen atmosphere, then 700 mg of tetrakis(triphenylphosphine)palladium (0) was added and the resultant mixture was stirred while shaded at room temperature overnight. The reaction solution was concentrated in vacuo and the solid obtained was washed with methylene chloride to obtain 1.47 g (yield 81%) of the above-identified compound. Properties: colorless crystal, Melting point: >200° C. (decomposition), PMR (δ ppm, DMSO-d6): 3.76 (2H, s), 7.13 (1H, s), 7.24 (1H, d), 7.61-7.69 (2H, m), 7.86 (1H, d), 8.05 (1H, s), 12.50 (1H, br).

reactant | 3-allyloxycarbonylmethylbenzenesulfonyl isocyanate | 11.6 mmol, 3.27 g | C(C=C)OC(=O)CC=1C=C(C=CC1)S(=O)(=O)N=C=O | C12H11NO5S
reactant | 4-chloroanthranilic acid | 11.5 mmol | ClC=1C=C(C(C(=O)O)=CC1)N | C7H6ClNO2
reactant | CDI | 11.5 mmol, 1.87 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | water | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 3-(3allyloxycarbonylmethylbenzenesulfonyl)-7-chloro-2,4(1H,3H)-quinazolinedione | 2.0 g, yield 40% | C(C=C)OC(=O)CC=1C=C(C=CC1)S(=O)(=O)N1C(NC2=CC(=CC=C2C1=O)Cl)=O | C19H15ClN2O6S
